US07888364B2
70 mg of 4-(bromomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide was coupled to 50 mg of 3,5-dimethyl-1H-pyrazole via Procedure P. The reaction was evaporated to dryness and purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((3,5-dimethyl-1H-pyrazol-1-yl)methyl)benzamide. MS (Q1) 417.3 (M)+.

reactant | 4-(bromomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | 70 mg | BrCC1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C19H14BrClN2O
reactant | 3,5-dimethyl-1H-pyrazole | 50 mg | CC1=NNC(=C1)C | C5H8N2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((3,5-dimethyl-1H-pyrazol-1-yl)methyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1N=C(C=C1C)C)=O)C1=NC=CC=C1 | C24H21ClN4O
